US07625908B2
N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-2-hydroxy-N-methylacetamide
The procedure described in Example 1 was repeated using glycolic acid and N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino) ethoxy]quinazolin-4-amine (obtained as described for the R-antipode in Example 2.3, preparation of starting materials) to give the title compound in 53% yield; NMR spectrum (DMSO-d6) 1.39 (d, 3H), 2.96 (s, 3H), 3.36 (dd, 1H), 4.04 (d, 2H), 4.21 (m, 1H), 4.37 (t, 1H), 5.09 (m, 1H), 5.29 (s, 1H), 7.25 (m, 2H), 7.35 (m, 2H), 7.57 (d, 1H), 7.65 (dd, 1H), 7.70 (t, 1H), 7.87 (dt, 1H), 8.12 (d, 1H), 8.46 (s, 1H), 8.58 (d, 1H), 9.93 (s, 1H); Mass Spectrum MH+ 508.

reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino) ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CNC)C | C24H24ClN5O2
product | N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-2-hydroxy-N-methylacetamide | 53% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CN(C(CO)=O)C)C | C26H26ClN5O4
